US05382590
The procedure is analogous to that described in Example 1, but 1.9 g of 2-(2-amino-N-phenylacetamido)-N-(4-methoxyphenyl)-N-methylacetamide and 0.77 g of 3-methylphenyl isocyanate are used as the starting material. The product obtained is purified by chromatography on 70 g of silica (0.065-0.200 mm) contained in a column 2.5 cm in diameter [eluent: ethyl acetate/cyclohexane (80-20 by volume)], collecting 20 cm3 fractions. Fractions 14 to 26 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization from acetonitrile, 1.0 g of N-(4-methoxyphenyl)-N-methyl-2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetamide melting at 202° C. is obtained.

reactant | 2-(2-amino-N-phenylacetamido)-N-(4-methoxyphenyl)-N-methylacetamide | 1.9 g | NCC(=O)N(C1=CC=CC=C1)CC(=O)N(C)C1=CC=C(C=C1)OC | C18H21N3O3
reactant | 3-methylphenyl isocyanate | 0.77 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | N-(4-methoxyphenyl)-N-methyl-2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetamide | 1.0 g | COC1=CC=C(C=C1)N(C(CN(C(CNC(=O)NC1=CC(=CC=C1)C)=O)C1=CC=CC=C1)=O)C | C26H28N4O4
